US07981924B2
A solution of 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (143 mg, 0.606 mmol) and 3-(2-ethyl-4-formyl-6-methyl-phenyl)-propionic acid (200 mg, 0.908 mmol) in ethanol (15 mL) is treated with 5 N HCl in isopropanol (3 mL). The dark brown reaction mixture is stirred at rt for 3 h, then at 50° C. for 48 h before DIPEA (4 mL) is added. The solvent is removed in vacuo and the crude product is purified by prep. HPLC (Grom-Sil 120 ODS-4-HE, 30×75 mm, 10 μm, acetonitrile/water (0.5% HCOOH), 10% to 95% acetonitrile) to give 3-{2-ethyl-4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-6-methyl-phenyl}-propionic acid ethyl ester (157 mg) as a yellow oil; LC-MS: tR=1.27 min, [M+1]=467.43.

reactant | 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 0.606 mmol, 143 mg | C(C)C1=C2C(=C(S1)C(C)=O)CCC(C2)(C)C | C14H20OS
reactant | 3-(2-ethyl-4-formyl-6-methyl-phenyl)-propionic acid | 0.908 mmol, 200 mg | C(C)C1=C(C(=CC(=C1)C=O)C)CCC(=O)O | C13H16O3
reactant | HCl | 5 N | Cl | ClH
reactant | DIPEA | 4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 3-{2-ethyl-4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-6-methyl-phenyl}-propionic acid ethyl ester | 157 mg | C(C)OC(CCC1=C(C=C(C=C1C)C=CC(=O)C=1SC(=C2C1CCC(C2)(C)C)CC)CC)=O | C29H38O3S
